US09302989B2
5-(hydroxymethyl)-N-(3-phenylpropyl)-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 272B, substituting 3-phenylpropan-1-amine for 4-amino-N-propylbenzamide and isoindolin-5-ylmethanol hydrochloride for methyl isoindoline-5-carboxylate hydrochloride. 1H NMR (300 MHz, DMSO-d6) δ ppm 7.30-7.14 (m, 8H), 6.30 (t, J=5.5 Hz, 1H), 5.16 (t, J=5.5 Hz, 1H), 4.55 (bs, 4H), 4.49 (d, J=4.9 Hz, 2H), 3.16-3.05 (m, 2H), 2.64-2.56 (m, 2H), 1.76 (p, J=7.4 Hz, 2H); MS (ESI(+)) m/e 311 (M+H)+.

reactant | 4-amino-N-propylbenzamide | NC1=CC=C(C(=O)NCCC)C=C1 | C10H14N2O
reactant | isoindolin-5-ylmethanol hydrochloride | Cl.C1NCC2=CC(=CC=C12)CO
reactant | methyl isoindoline-5-carboxylate hydrochloride | Cl.C1NCC2=CC(=CC=C12)C(=O)OC
product | 5-(hydroxymethyl)-N-(3-phenylpropyl)-1,3-dihydro-2H-isoindole-2-carboxamide | OCC=1C=C2CN(CC2=CC1)C(=O)NCCCC1=CC=CC=C1 | C19H22N2O2
